Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.10081575566
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.92712183949
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6],8.96611643
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])[H:8].[H:1][C:2]=[C:3]([H:4])[C:5][C:9]([H:10])([H:11])[O:12][H:13],8.238692486849999
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7](=[O:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([O:8])([H:9])[H:10],0.779281475681
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[O:7].[H:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8],-1.88857038751
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.62965466233
[H:1][C:2]([O:3][C:5]([H:6])[H:7])[O:12][C:9][C:4]([H:8])([H:10])[H:11]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1,-3.00854552468
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.96628452515
[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1],8.09411463152
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.92712183949
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:8](=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-0.6620043667000001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.00563380161
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.4171738717
[C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.82309677667
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.79363251432
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:8],4.07348564687
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:6](=[C:7]([H:8])[H:9])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:10]=[C:13]([H:14])[H:15],1.7538872444099998
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9],-2.7973692883
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.01209349291
[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9]>>[C:1]#[C:2][C:3]#[C:4][C:6]([H:7])=[C:8][H:9].[H:5],3.8007995686
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])([C:4][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16])[H:9],6.70265459741
[H:3].[O:1]=[C:2][O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7],-4.56883595834
[H:14].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.31815301354
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-5.10508742746
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-4.63153034176
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.90544931762
